US06559143B1
4-(2-Bromoethoxy)phenyl tert-butyl ether
A solution of KOH (0.224 g, 4 mmol) in MeOH (3 mL) was added, over the course of 30 min, to a warmed (70° C.) mixture of 1,2-dibromoethane (3 g, 0.016 mol) and 4-(tert-butoxy)phenol (0.66 g, 0.004 mol). The mixture was stirred at 70° C. for 15 h before water and CHCl3 were added. The layers were separated, the organic layer washed with 10% aqueous NaOH and then dried (Na2SO4) and concentrated in vacuo to give 0.32 g (28%) of the sub-title compound.

reactant | KOH | 4 mmol, 0.224 g | [OH-].[K+]
reactant | 1,2-dibromoethane | 0.016 mol, 3 g | BrCCBr | C2H4Br2
reactant | 4-(tert-butoxy)phenol | 0.004 mol, 0.66 g | C(C)(C)(C)OC1=CC=C(C=C1)O | C10H14O2
reactant | water | O | H2O
solvent | MeOH | 3 mL | CO | CH4O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 4-(2-Bromoethoxy)phenyl tert-butyl ether | 0.32 g, 28% | C(C)(C)(C)OC1=CC=C(C=C1)OCCBr | C12H17BrO2
